US09079866B2
4′-(5-Amino-3-cyanopyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 6-amino-3-(4-bromo-2-fluorophenyl)pyrazine-2-carbonitrile and (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid. MS (ESI): mass calcd. for O21H20FN5O2S, 425.13; m/z found, 426.1 [M+H]+. 1H NMR (600 MHz, CDCl3) δ 8.25 (s, 1H), 8.19 (dd, J=8.0, 1.4, 1H), 7.64-7.56 (m, 2H), 7.54-7.49 (m, 1H), 7.47 (dd, J=7.9, 1.7, 1H), 7.40-7.33 (m, 2H), 1.04 (s, 9H).

reactant | 6-amino-3-(4-bromo-2-fluorophenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)Br)F | C11H6BrFN4
reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
product | 4′-(5-Amino-3-cyanopyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | NC=1N=C(C(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F)C#N | C21H20FN5O2S
